US08211901B2
Preparation of 6-(7-methoxyquinolin-4-yloxy)-1-naphthoic acid
The title compound (1.73 g, 66% yield) was prepared as a brown solid from 6-hydroxy-1-naphthoic acid (1.43 g, 7.6 mmol) and 4-chloro-7-methoxyquinoline (1.77 g, 9.14 mmol) by an analogous procedure to that described in example 1. LC-MS (m/z) 346 (M+1).

reactant | 6-hydroxy-1-naphthoic acid | 7.6 mmol, 1.43 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 4-chloro-7-methoxyquinoline | 9.14 mmol, 1.77 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
product | 6-(7-methoxyquinolin-4-yloxy)-1-naphthoic acid | 1.73 g, 66% yield | COC1=CC=C2C(=CC=NC2=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H15NO4
